* NGSPICE file created from RFEHCONN.ext - technology: gf180mcuD

.subckt RFEHCONN VRECT VSS N1 N2
X0 VSS VSS VSS VSS nfet_03v3 ad=0.58p pd=3.16u as=71.75999p ps=0.25284m w=1u l=10u
X1 VSS VSS VSS VSS nfet_03v3 ad=2.92p pd=9.46u as=0 ps=0 w=4u l=0.28u
X2 VRECT N1 N2 VRECT pfet_03v3 ad=3.75p pd=11.5u as=3.75p ps=11.5u w=5u l=0.28u
X3 VRECT VRECT VRECT VRECT pfet_03v3 ad=3.65p pd=11.46u as=48.48p ps=0.16528m w=5u l=0.28u
X4 VSS VSS VSS VSS nfet_03v3 ad=2.92p pd=9.46u as=0 ps=0 w=4u l=0.28u
X5 N1 N1 VRECT VRECT pfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=1u
X6 VSS N2 N2 VSS nfet_03v3 ad=3p pd=9.5u as=1.72p ps=4.86u w=4u l=0.28u
X7 VRECT VRECT VRECT VRECT pfet_03v3 ad=2.32p pd=9.16u as=0 ps=0 w=4u l=1u
X8 N2 N2 VSS VSS nfet_03v3 ad=1.72p pd=4.86u as=3p ps=9.5u w=4u l=0.28u
X9 VSS VSS VSS VSS nfet_03v3 ad=0.6p pd=3.2u as=0 ps=0 w=1u l=10u
X10 VSS N2 N1 VSS nfet_03v3 ad=2.25p pd=7.5u as=2.25p ps=7.5u w=3u l=0.28u
X11 VSS VSS VSS VSS nfet_03v3 ad=1.16p pd=5.16u as=0 ps=0 w=2u l=1u
X12 N1 VRECT VRECT VSS nfet_03v3 ad=3p pd=9.5u as=1.72p ps=4.86u w=4u l=0.28u
X13 N1 N1 N2 VSS nfet_03v3 ad=1.72p pd=4.86u as=3p ps=9.5u w=4u l=0.28u
X14 N2 N2 VRECT VRECT pfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=1u
X15 VSS VSS VSS VSS nfet_03v3 ad=1.16p pd=5.16u as=0 ps=0 w=2u l=1u
X16 VRECT VRECT VRECT VRECT pfet_03v3 ad=3.65p pd=11.46u as=0 ps=0 w=5u l=0.28u
X17 VRECT N1 N2 VRECT pfet_03v3 ad=3.75p pd=11.5u as=3.75p ps=11.5u w=5u l=0.28u
X18 VSS VSS VSS VSS nfet_03v3 ad=2.19p pd=7.46u as=0 ps=0 w=3u l=0.28u
X19 N1 N1 VSS VSS nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=1u
X20 VRECT VRECT VRECT VRECT pfet_03v3 ad=2.32p pd=9.16u as=0 ps=0 w=4u l=1u
X21 VSS VSS VSS VSS nfet_03v3 ad=0.58p pd=3.16u as=0 ps=0 w=1u l=10u
X22 VSS N1 N2 VSS nfet_03v3 ad=2.25p pd=7.5u as=2.25p ps=7.5u w=3u l=0.28u
X23 N2 N2 VRECT VRECT pfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=1u
X24 VRECT VRECT N1 VSS nfet_03v3 ad=1.72p pd=4.86u as=3p ps=9.5u w=4u l=0.28u
X25 N1 N1 VSS VSS nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=1u
X26 VSS VSS VSS VSS nfet_03v3 ad=2.92p pd=9.46u as=0 ps=0 w=4u l=0.28u
X27 VSS VSS VSS VSS nfet_03v3 ad=2.92p pd=9.46u as=0 ps=0 w=4u l=0.28u
X28 VSS VSS VSS VSS nfet_03v3 ad=2.92p pd=9.46u as=0 ps=0 w=4u l=0.28u
X29 N1 N1 VRECT VRECT pfet_03v3 ad=2.4p pd=9.2u as=2.4p ps=9.2u w=4u l=1u
X30 VSS N1 N2 VSS nfet_03v3 ad=2.25p pd=7.5u as=2.25p ps=7.5u w=3u l=0.28u
X31 VSS VSS VSS VSS nfet_03v3 ad=2.92p pd=9.46u as=0 ps=0 w=4u l=0.28u
X32 VSS N2 N1 VSS nfet_03v3 ad=2.25p pd=7.5u as=2.25p ps=7.5u w=3u l=0.28u
X33 VRECT N2 N1 VRECT pfet_03v3 ad=3.75p pd=11.5u as=3.75p ps=11.5u w=5u l=0.28u
X34 N2 N2 VSS VSS nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=1u
X35 VSS VSS VSS VSS nfet_03v3 ad=2.19p pd=7.46u as=0 ps=0 w=3u l=0.28u
X36 N2 N2 VSS VSS nfet_03v3 ad=1.2p pd=5.2u as=1.2p ps=5.2u w=2u l=1u
X37 N2 N1 N1 VSS nfet_03v3 ad=3p pd=9.5u as=1.72p ps=4.86u w=4u l=0.28u
X38 VRECT N2 N1 VRECT pfet_03v3 ad=3.75p pd=11.5u as=3.75p ps=11.5u w=5u l=0.28u
C0 N2 VRECT 17.5278f
C1 N2 N1 28.4692f
C2 N1 VRECT 18.6245f
C3 N2 VSS 88.84139f
C4 N1 VSS 96.2269f
C5 VRECT VSS 76.9261f
.ends

